US07459554B2
1-(3-benzyloxy-4-methoxyphenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine:
An iPrOH (5 ml)/DCM (4 ml) solution of 1-(3-benzyloxy-4-methoxyphenyl)-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine (290 mg, 87%, 0.601 mmol), cooled to −78° C. in a dry ice/acetone bath, was charged with liquid NH3 for 15 min. The sealed tube was equipped with a Teflon washer, sealed and heated 110° C. for 14 h. After that time, the excess NH3 and the solvent were evaporated. The remaining material was purified by chromatography on silica gel to obtain the title compound as a brown oil. The impurities that could not be removed by conventional methods (eg. TLC, HPLC etc.), were removed by SCX column (washed with 7 ml of DCM, 7 ml of MeOH and 7 ml of 2 N NH3 in MeOH); 1H NMR (CDCl3, 400 MHz) δ 2.00-2.24 (m, 2H), 2.42-2.66 (m, 4H), 3.78 (quintet, 1H, J=8.4 Hz), 3.95 (s, 3H), 4.95 (brs, 2H), 5.23 (s, 2H), 6.98-7.02 (m, 2H), 7.07 (d, 1H, J=5.2 Hz), 7.17 (d, 1H, J=2.0 Hz), 7.23 (dd, 1H, J=2.0 and 8.0 Hz), 7.29-7.45 (m, 5H); MS (ES): 401.1 (M+1).

reactant | iPrOH | 5 ml | CC(C)O | C3H8O
reactant | 1-(3-benzyloxy-4-methoxyphenyl)-8-chloro-3-cyclobutylimidazo[1,5-a]pyrazine | 0.601 mmol, 290 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=1N=C(N2C1C(=NC=C2)Cl)C2CCC2 | C24H22ClN3O2
reactant | NH3 | N | H3N
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-benzyloxy-4-methoxyphenyl)-3-cyclobutyl-imidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C=1N=C(N2C1C(=NC=C2)N)C2CCC2 | C24H24N4O2
